US08283354B2
4-Benzyl-piperazine-1-carboxylic acid tetrahydro-furan-3-ylmethyl ester (11.0 g) was dissolved in 100 ml ethanol. Palladium on carbon (10% Pd/C, 0.5 g) was added, and a hydrogen atmosphere was applied overnight at room temperature. The solution was filtered through Celite to remove the catalyst, and the Celite cake was rinsed with 50 ml ethanol. The combined filtrates were evaporated to dryness to yield piperazine-1-carboxylic acid tetrahydro-furan-3-ylmethyl ester (8.0 g) as a colorless oil.

reactant | 4-Benzyl-piperazine-1-carboxylic acid tetrahydro-furan-3-ylmethyl ester | 11.0 g | O1CC(CC1)COC(=O)N1CCN(CC1)CC1=CC=CC=C1 | C17H24N2O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | Palladium on carbon | 0.5 g | [Pd] | Pd
product | piperazine-1-carboxylic acid tetrahydro-furan-3-ylmethyl ester | 8.0 g | O1CC(CC1)COC(=O)N1CCNCC1 | C10H18N2O3
